US05231102
b) Trans-2-carboxy-5,7-dichloro-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline
To a suspension of trans-5,7-dichloro-2-methoxy-carbonyl-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline (3.11 g, 7.89 mmol) in a mixture of tetrahydrofuran (100 ml) and water (50 ml) was added aqueous lithium hydroxide (17.4 ml of a 0.5M solution, 8.70 mmol) and the resulting mixture was stirred at room temperture for 3 h. The organic solvent was removed in vacuo and the aqueous residue was acidified with concentrated hydrochloric acid and extracted with ethyl acetate (2×100 ml). The combined extracts were washed with saturated brine (1×100 ml), dried (MgSO4) and evaporated to give the crude product which was recrystallised from ethyl acetate/petroleum ether 60-80 to give the title compound as colourless crystals (2 crops, 2.65 g) identical in physical properties to example 34 step b.

reactant | trans-5,7-dichloro-2-methoxy-carbonyl-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline | 7.89 mmol, 3.11 g | ClC1=C2[C@H](C([C@@H](NC2=CC(=C1)Cl)OC)=C=O)NC(=O)CC1=CC=CC=C1 | C19H16Cl2N2O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Trans-2-carboxy-5,7-dichloro-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline | 2.65 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)CC1=CC=CC=C1)Cl)Cl | C18H16Cl2N2O3
